US05134111
(d) Preparation of 3-methoxy-4-methoxymethoxy-5-methyl-1-naphthalenecarbaldehyde
37 g of manganese dioxide was added to a dichloromethane (150 ml) solution of 1-hydroxymethyl-3-methoxy-4-methoxymethoxy-5-methylnaphthalene and agitated at room temperature overnight. The reaction suspension was filtered through Celite and the resultant filtrate was concentrated under reduced pressure, followed by purification by silica gel column chromatography (5% ethyl acetate/hexane) to obtain 3.8 g of the captioned compound as light yellowish brown crystals.

reactant | 1-hydroxymethyl-3-methoxy-4-methoxymethoxy-5-methylnaphthalene | OCC1=CC(=C(C2=C(C=CC=C12)C)OCOC)OC | C15H18O4
catalyst | manganese dioxide | 37 g | [O-2].[O-2].[Mn+4]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-methoxy-4-methoxymethoxy-5-methyl-1-naphthalenecarbaldehyde | 3.8 g | COC=1C=C(C2=CC=CC(=C2C1OCOC)C)C=O | C15H16O4
